US06838454B2
Preparation of 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid Step A.
The reaction is performed under an Argon atmosphere. 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester (300 mg, 0.73 mmol) is dissolved in 4 ml Dioxane (dry). Tripropylamine (TPA) (98 μl, 0.73 mmol) is added and the reaction is stirred for 15 minutes at RT. Diphenyl phosphoryl azide (157 μl, 0.73 mmol) is added and the reaction is gradually heated to 60° C. for 3 h. The reaction is then allowed to cool to room temperature. Benzyl alcohol (235 μl, 2.2 mmol) is added and the reaction solution is heated to 60° C. over night. The reaction solution is diluted with Ethylacetate and washed with 2 M Citric Acid and Water. The organic phase is separated, dried with MgSO4 and filtrated. The solvent is evaporated and the remaining oil is purified by flash-chromatography, Hexane/Ethylacetate (2:1): Cal. 516.6, found (M)+ 517.

reactant | 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester | 0.73 mmol, 300 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H25NO7S
reactant | Tripropylamine | 0.73 mmol, 98 μl | C(CC)N(CCC)CCC | C9H21N
reactant | Diphenyl phosphoryl azide | 0.73 mmol, 157 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Benzyl alcohol | 2.2 mmol, 235 μl | C(C1=CC=CC=C1)O | C7H8O
solvent | Dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | Ethylacetate | C(C)OC(C)=O | C4H8O2
product | 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NC1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C22H24N2O7S
